US05488055
A mixture of 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]quinoline (3 g), DMSO (9 ml) and trans-4-(aminomethyl)cyclohexane carboxylic acid (4.1 g) was heated at 180° C. overnight. The reaction mixture was then partitioned between CH2Cl2 and water, the layers were separated and the aqueous layer was extracted with CH2Cl2. The organic layers were combined, washed with water, dried over Na2SO4, and evaporated. The residue was purified by column chromatography on silca gel to afford an oil which was crystallized from ether/hexane and then recrystallized from ether/hexane to afford 1-ethyl-N-[[4-(methylthiomethoxycarbonyl) cyclohexyl]methyl]-1H-pyrazolo[3,4-b]quinolin-4-amine, m.p. 135°-136° C.

reactant | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]quinoline | 3 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2)CC | C12H10ClN3
reactant | trans-4-(aminomethyl)cyclohexane carboxylic acid | 4.1 g | NC[C@@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
reactant | DMSO | 9 ml | CS(=O)C | C2H6OS
product | 1-ethyl-N-[[4-(methylthiomethoxycarbonyl) cyclohexyl]methyl]-1H-pyrazolo[3,4-b]quinolin-4-amine | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2CCC(CC2)C(=O)OCSC | C22H28N4O2S
